US07399759B2
2-(Trimethylsilyl)ethyl 7-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]heptanoate
2-(Trimethylsilyl)ethyl 7-(6-cyano-2-pyridyl)heptanoate (0.52 g, 1.6 mmol) and methyl thiosalicylate (0.43 g, 2.5 mmol) were dissolved in toluene (2 ml), and triethylamine (0.44 ml, 2.3 mmol) was added thereto. The reaction mixture was refluxed for 16 hrs and subjected to a silica gel (35 g) column chromatography. The fractions eluted with hexane-ethyl acetate (4:1, v/v) were collected and concentrated to give the titled compound (0.38 g, 27%) as a yellow oil.

reactant | 2-(Trimethylsilyl)ethyl 7-(6-cyano-2-pyridyl)heptanoate | 1.6 mmol, 0.52 g | C(#N)C1=CC=CC(=N1)CCCCCCC(=O)OCC[Si](C)(C)C | C18H28N2O2Si
reactant | methyl thiosalicylate | 2.5 mmol, 0.43 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 2.3 mmol, 0.44 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(Trimethylsilyl)ethyl 7-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]heptanoate | 0.38 g, 27% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCCCCCC(=O)OCC[Si](C)(C)C | C25H32N2O3SSi
